US04372970
The acid was decarboxylated by treating with quinoline (using the same method as that used for 5-formylbenzofuran in Chimica Therapeutica 1966, 225) to give benzofuran-5-acetonitrile. (t.l.c./silica/toluene, RF 0.33).

reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 5-formylbenzofuran | C(=O)C=1C=CC2=C(C=CO2)C1 | C9H6O2
product | benzofuran-5-acetonitrile | O1C=CC2=C1C=CC(=C2)CC#N | C10H7NO
